US08404684B2
18a) Imidazole-1-carboxylic acid (4-methyl-5-pyridin-4-yl-thiazol-2-yl)-amide
To a stirred solution of carbonyldiimidazole (3.91 g, 24.2 mmol) in DCM (150 ml) is added 4-methyl-5-pyridin-4-yl-thiazol-2-ylamine (prepared according to the method described in EP 117082 A2) (3.08 g, 16.1 mmol) in one portion. The suspension is stirred for 2.5 hours at 40° C. and the reaction mixture is then filtered and washed with DCM to afford the titled compound as a solid.

reactant | carbonyldiimidazole | 24.2 mmol, 3.91 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-methyl-5-pyridin-4-yl-thiazol-2-ylamine | CC=1N=C(SC1C1=CC=NC=C1)N | C9H9N3S
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | Imidazole-1-carboxylic acid (4-methyl-5-pyridin-4-yl-thiazol-2-yl)-amide | CC=1N=C(SC1C1=CC=NC=C1)NC(=O)N1C=NC=C1 | C13H11N5OS
